### PR TITLE
feat(RingTheory/Ideal): restriction maps on decomposition and inertia groups in a Galois tower

### PR DESCRIPTION
**Pull request by xroblot**
For a tower of commutative rings `R ⊆ A ⊆ B`, with `G` a Galois group for `B / R` and `H` a Galois group for `A / R`, the restriction homomorphism `IsGaloisGroup.restrictHom : G →* H` sends the decomposition (resp. inertia) group of a prime `P` of `B` into the decomposition (resp. inertia) group of the prime `p` of `A` below `P`. This adds a new file `Mathlib/RingTheory/Ideal/Galois.lean` packaging these as group homomorphisms:
- `Ideal.stabilizerMapOfLiesOver : stabilizer G P →* stabilizer H p`,
- `Ideal.inertiaMapOfLiesOver : inertia G P →* inertia H p`,

and proving that both maps are surjective, with kernel the kernel of `restrictHom` intersected with the decomposition (resp. inertia) group of `P`.

---

- [x] depends on: #38864
- [ ] depends on: #40866

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Galois.lean [hunk 1]
```diff
@@ -0,0 +1,196 @@
...
+  rw [liesOver_iff, under_def, Ideal.comap_smul_eq_restrictNormalHom_smul_comap K L F, ← under_def,
+      ← over_def P p, hσ]
+
+/--
+The natural group homomorphism from the decomposition group of `P` in `Gal(L/K)` to the
+decomposition group of `p` in `Gal(F/K)`, induced by the restriction homomorphism
+`AlgEquiv.restrictNormalHom F : Gal(L/K) →* Gal(F/K)`.
+-/
+@[simps! apply_coe]
+noncomputable def stabilizerMapOfLiesOver :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Galois.lean]: I may be wrong, but we now have `Gal(A/B)`: do we really need to introduce all these fields? The notation is becoming a nightmare.

I understand we want more flexibility, but if we completely remove fields from the statement then in proofs we can just use the fraction field (where hopefully instances are easy to provide).

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Galois.lean]: As you know, the main application I have in mind is for number fields, where `K` is not defeq to `FractionRing (𝓞 K)`, so removing the fields from the statements would make things very painful in practice. I agree though that the number of hypotheses is becoming unwieldy and I don't have a good solution for this.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/Galois.lean]: I mean, remove any mention to the field from statements, using the Galois group `Gal(A/B)`.

Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Galois.lean]: Oh, I see. But in this case, it would be very helpful to have a ring version of [AlgEquiv.restrictNormalHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Normal/Defs.html#AlgEquiv.restrictNormalHom). I thought we had something like that but I cannot find it anymore.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/Galois.lean]: cc @tb65536

Comment (tb65536) [reply Mathlib/RingTheory/Ideal/Galois.lean]: Yeah, would be good to add an analogue of this for rings (or, better yet, generalize to rings?)

File: Mathlib/RingTheory/Ideal/Galois.lean [hunk 2]
```diff
@@ -0,0 +1,196 @@
+/-
+Copyright (c) 2026 Xavier Roblot. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Xavier Roblot
+-/
+module
+
+public import Mathlib.NumberTheory.RamificationInertia.Galois
+
```
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/Galois.lean:9]: Thanks copilot for recall us that sometimes you are not so good.

File: Mathlib/FieldTheory/Normal/Defs.lean [hunk 3]
```diff
@@ -191,6 +191,22 @@ lemma AlgEquiv.restrictNormalHom_apply (L : IntermediateField F K₁) [Normal F
     (σ : Gal(K₁/F)) (x : L) : restrictNormalHom L σ x = σ x :=
   AlgEquiv.restrictNormal_commutes σ L x
 
+theorem AlgEquiv.algebraMap_restrictNormalHom_smul (x : E) (g : Gal(K₁/F)) [Normal F E] :
+    algebraMap E K₁ (AlgEquiv.restrictNormalHom E g • x) = g • (algebraMap E K₁ x) := by
+  rw [AlgEquiv.smul_def, AlgEquiv.smul_def]
+  exact AlgEquiv.restrictNormal_commutes _ _ _
+
+theorem AlgEquiv.algebraMap_restrictNormalHom_smul' {A B : Type*} [CommRing A] [CommRing B]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Normal/Defs.lean]: Isn't this strictly more general than the unprimed version? If it is so please switch primed with unprimed.

File: Mathlib/RingTheory/Ideal/Galois.lean [hunk 4]
```diff
@@ -0,0 +1,196 @@
...
+* `Ideal.stabilizerMapOfLiesOver`: For `F/K` a Galois subextension of `L/K`, the natural group
+  homomorphism from the decomposition group of `P` in `Gal(L/K)` to the decomposition group
+  of `p` in `Gal(F/K)` induced by the restriction.
+* `Ideal.inertiaMapOfLiesOver`: For `F/K` a Galois subextension of `L/K`, the natural group
+  homomorphism from the inertia group of `P` in `Gal(L/K)` to the inertia group
+  of `p` in `Gal(F/K)` induced by the restriction.
+
+## Main results
+
+* `Ideal.stabilizerMapOfLiesOver_surjective`: The map `stabilizerMapOfLiesOver` is surjective.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Galois.lean]: Can you add the docstring also just before the declarations?

File: Mathlib/RingTheory/Ideal/Galois.lean [hunk 5]
```diff
@@ -0,0 +1,196 @@
...
+    apply smul_liesOver_of_restrictNormalHom_mem_stabilizer K L F P p
+    rwa [map_inv, ← Subgroup.inv_mem_iff]
+  obtain ⟨τ, hτ⟩ := Ideal.exists_smul_eq_of_isGaloisGroup p P (σ⁻¹ • P) Gal(L/F)
+  refine ⟨⟨σ * τ.restrictScalars K, ?_⟩, ?_⟩
+  · rw [mem_stabilizer_iff, mul_smul, restrictScalars_smul, hτ, smul_inv_smul]
+  · simp only [Subtype.ext_iff, stabilizerMapOfLiesOver_apply_coe, map_mul, mul_eq_left,
+      AlgEquiv.ext_iff, one_apply]
+    intro _
+    apply FaithfulSMul.algebraMap_injective F L
+    simp [restrictNormalHom]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Galois.lean]: The fact that you unfold `restrictNormalHom` here tells me that we are missing an `apply` lemma.

File: Mathlib/RingTheory/Ideal/Galois.lean [hunk 6]
```diff
@@ -0,0 +1,196 @@
...
+    Function.Surjective (Ideal.inertiaMapOfLiesOver K L F P p) := by
+  have : IsGaloisGroup Gal(L/K) R B := .of_isFractionRing _ _ _ K L
+  have : IsGaloisGroup Gal(L/F) A B := .of_isFractionRing _ _ _ F L
+  have : p.IsMaximal := IsMaximal.of_isMaximal_liesOver P p
+  have : p₀.IsMaximal := IsMaximal.of_isMaximal_liesOver P p₀
+  intro ⟨g, hg⟩
+  obtain ⟨σ, hσ⟩ := stabilizerMapOfLiesOver_surjective K L F P p ⟨g, inertia_le_stabilizer _ hg⟩
+  have hσ' : restrictNormalHom F σ.val = g := by simpa using congr_arg Subtype.val hσ
+  have : p.LiesOver p₀ := LiesOver.tower_bot P p p₀
+  let σ' : Gal((B ⧸ P) / (A ⧸ p)) := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Galois.lean]: Can the `let σ'` be extracted as an helper (maybe private) def?

File: Mathlib/RingTheory/Ideal/Galois.lean [hunk 7]
```diff
@@ -0,0 +1,196 @@
...
+    intro _
+    apply FaithfulSMul.algebraMap_injective F L
+    simp [restrictNormalHom]
+
+theorem stabilizerMapOfLiesOver_ker (E : IntermediateField K L) [Normal K E]
+    [Algebra A E] [MulSemiringAction Gal(E/K) A] [SMulDistribClass Gal(E/K) A E]
+    [IsScalarTower A E L] :
+    (Ideal.stabilizerMapOfLiesOver K L E P p).ker =
+      E.fixingSubgroup.subgroupOf (stabilizer Gal(L/K) P) := by
+  unfold stabilizerMapOfLiesOver
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Galois.lean]: Please add the `rfl` lemma needed to avoid this unfolding.

File: Mathlib/RingTheory/Ideal/Galois.lean [hunk 8]
```diff
@@ -0,0 +1,196 @@
...
+      AlgEquiv.ext_iff, one_apply]
+    intro _
+    apply FaithfulSMul.algebraMap_injective F L
+    simp [restrictNormalHom]
+
+theorem inertiaMapOfLiesOver_ker (E : IntermediateField K L) [Normal K E] [Algebra A E]
+    [MulSemiringAction Gal(E/K) A] [SMulDistribClass Gal(E/K) A E] [IsScalarTower A E L] :
+    (Ideal.inertiaMapOfLiesOver K L E P p).ker =
+      E.fixingSubgroup.subgroupOf (inertia Gal(L/K) P) := by
+  unfold inertiaMapOfLiesOver
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Galois.lean]: Same as above, please avoid `unfold`.

**Comment by xroblot** [comment]
This PR is not needed anymore
